US03970459
5-m-nitrobenzylidenerhodanine;
5-m-nitrobenzylidene-3-phenylrhodanine; 3-ethyl-5-m-nitrobenzylidenerhodanine; 3-ethyl-5-(2,4-dinitrobenzylidene)rhodanine; 5-o-nitrobenzylidene-3-phenylrhodanine; 6-chloro-4-nitrobenzotriazole; 2-(p-dimethylaminophenyliminomethyl)-benzothiazole ethoethylsulfate; 1,3-diamino-5-methylphenazinium chloride; 4-nitro-6-chlorobenzotriazole; anhydro-2-p-dimethylaminophenyliminomethyl-6-nitro-3-(4-sulfobutyl)benzothiazoline hydroxide; 1-(2-benzothiazolyl)-2-(p-dimethylaminostyryl)-4,6-diphenylpyridine iodide; 1,3-diethyl-5-[1,3-neopentylene-6-(1,3,3-trimethyl-2-indolinylidene)-2,4-hexadienylidene]-2-thiobarbituric acid; 2,3,5-triphenyl-2H-tetrazolium chloride; 2-(4-iodophenyl)-3-(4-nitrophenyl)-5-phenyl-tetrazolium chloride; 1-methyl-8-nitroquinolinium methylsulfate; 3,6-bis[4-(3-ethyl-2-benzothiazolinylidene)-2-butenylidene]-1,2,4,5-cyclohexanetetrone; and the like. The proportion of these electron acceptors added can range from about 100 mg to 2 g per 1 mole of silver halide.

reactant | 5-m-nitrobenzylidene-3-phenylrhodanine | [N+](=O)([O-])C=1C=C(C=C2C(N(C(S2)=S)C2=CC=CC=C2)=O)C=CC1 | C16H10N2O3S2
reactant | 3-ethyl-5-m-nitrobenzylidenerhodanine | C(C)N1C(SC(C1=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=S | C12H10N2O3S2
reactant | 3-ethyl-5-(2,4-dinitrobenzylidene)rhodanine | C(C)N1C(SC(C1=O)=CC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=S | C12H9N3O5S2
reactant | 5-o-nitrobenzylidene-3-phenylrhodanine | [N+](=O)([O-])C1=C(C=C2C(N(C(S2)=S)C2=CC=CC=C2)=O)C=CC=C1 | C16H10N2O3S2
reactant | 6-chloro-4-nitrobenzotriazole | ClC=1C=C(C2=C(NN=N2)C1)[N+](=O)[O-] | C6H3ClN4O2
reactant | 2-(p-dimethylaminophenyliminomethyl)-benzothiazole | CN(C1=CC=C(C=C1)N=CC=1SC2=C(N1)C=CC=C2)C | C16H15N3S
reactant | 1,3-diamino-5-methylphenazinium chloride | [Cl-].NC1=CC(=CC2=[N+](C3=CC=CC=C3N=C12)C)N
reactant | 4-nitro-6-chlorobenzotriazole | [N+](=O)([O-])C1=CC(=CC=2NN=NC21)Cl | C6H3ClN4O2
reactant | 1-(2-benzothiazolyl)-2-(p-dimethylaminostyryl)-4,6-diphenylpyridine iodide | [I-].S1C(=NC2=C1C=CC=C2)N2C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C=CC2=CC=C(C=C2)N(C)C
reactant | 2,3,5-triphenyl-2H-tetrazolium chloride | [Cl-].C1(=CC=CC=C1)N1[NH2+]C(=NN1C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-(4-iodophenyl)-3-(4-nitrophenyl)-5-phenyl-tetrazolium chloride | [Cl-].IC1=CC=C(C=C1)N1[NH2+]C(=NN1C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1
reactant | 1-methyl-8-nitroquinolinium methylsulfate | COS(=O)(=O)[O-].C[N+]1=CC=CC2=CC=CC(=C12)[N+](=O)[O-]
reactant | 3,6-bis[4-(3-ethyl-2-benzothiazolinylidene)-2-butenylidene]-1,2,4,5-cyclohexanetetrone | C(C)N1C(SC2=C1C=CC=C2)=CC=CC=C2C(C(C(C(C2=O)=O)=CC=CC=C2SC1=C(N2CC)C=CC=C1)=O)=O | C32H26N2O4S2
product | 5-m-nitrobenzylidenerhodanine | [N+](=O)([O-])C=1C=C(C=C2C(NC(S2)=S)=O)C=CC1 | C10H6N2O3S2
